US06194425B1
Using the general method of Example 112 Part B, 4-benzoylbenzoic acid (72 mg, 0.32 mmole) was reacted with 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (100 mg, 0.32 mmol) to provide 30 mg of N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]-4-benzoylbenzamide as a white solid. Mass-spec (M+1=521.31).

reactant | 4-benzoylbenzoic acid | 0.32 mmole, 72 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.32 mmol, 100 mg | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
product | N1-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]-4-benzoylbenzamide | 30 mg | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)CCCC | C31H32N6O2
